US04164583
A solution of 43 g of 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-one in 430 ml of tetrahydrofuran is added dropwise at room temperature with stirring to 170 ml of a ca. 5% solution of methyl lithium in ether in a nitrogen atmosphere and the mixture is stirred for 51/2 hours at room temperature. Thereafter, saturated ammonium chloride solution and water are added and the mixture extracted with methylene chloride. The organic phase is dried over sodium sulphate and evaporated. The residue is crystallised from ether/petroleum ether to yield 6-chloro-3a,4,9,9a-tetrahydro-2,4-dimethylbenz[f]-isoindolin-4-ol. M.P. 125°-130°.

reactant | 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-one | 43 g | ClC1=CC2=C(CC3CN(CC3C2=O)C)C=C1 | C13H14ClNO
reactant | methyl lithium | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 430 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-chloro-3a,4,9,9a-tetrahydro-2,4-dimethylbenz[f]-isoindolin-4-ol | ClC1=CC2=C(CC3CN(CC3C2(O)C)C)C=C1 | C14H18ClNO
